US08258149B2
To a solution of 8,8-diethyl-9,10-dimethoxy-13-methyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (100 mg, 0.25 mmol) in methanol (10 mL) was added sodium borohydride (23 mg, 0.61 mmol) in small portions at 0° C. After stirring at 0° C. for 2 h, the mixture was concentrated in vacuo. The resulting residue was extracted with diethyl ether (2×50 mL), washed with water (2×25 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from methanol to afford 8,8-diethyl-9,10-dimethoxy-13-methyl-5,8,13,13a-tetrahydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (43 mg, 42%). LC/MS m/e calcd for C25H31NO4 (M+H)+: 410.53, observed: 410.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.48 (t, J=7.33 Hz, 3 H) 0.75 (d, J=6.82 Hz, 3 H) 0.85 (t, J=7.58 Hz, 3 H) 1.77-1.89 (m, 1 H) 1.94-2.06 (m, 1 H) 2.10-2.22 (m, 1 H) 2.23-2.36 (m, 1 H) 2.53-2.63 (m, 1 H) 2.64-2.74 (m, 1 H) 3.02 (dd, J=6.69, 2.91 Hz, 1 H) 3.16-3.26 (m, 1 H) 3.74 (s, 3 H) 3.80 (s, 3 H) 4.52 (s, 1 H) 5.94 (d, J=6.32 Hz, 2 H) 6.66 (s, 1 H) 6.79 (s, 1 H) 6.85 (d, J=8.59 Hz, 1 H) 6.96 (d, J=8.34 Hz, 1 H).

reactant | 8,8-diethyl-9,10-dimethoxy-13-methyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 0.25 mmol, 100 mg | C(C)C1(C=2C(=C(C=CC2C(=C2N1CCC1=CC3=C(C=C21)OCO3)C)OC)OC)CC | C25H29NO4
reactant | sodium borohydride | 0.61 mmol, 23 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 8,8-diethyl-9,10-dimethoxy-13-methyl-5,8,13,13a-tetrahydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 43 mg, 42% | C(C)C1(C=2C(=C(C=CC2C(C2N1CCC1=CC3=C(C=C21)OCO3)C)OC)OC)CC | C25H31NO4
